### PR TITLE
[Merged by Bors] - feat(NumberTheory/Cyclotomic/Basic): generalize some results for cyclotomic field

### PR DESCRIPTION
**Pull request by acmepjz**
- generalize `IsCyclotomicExtension.neZero[']` to `IsCyclotomicExtension.neZero_of_mem[']` which states that any non-zero element in `S` is non-zero in the ring
- generalize `IsCyclotomicExtension.integral` to any ring, without Noetherian and finiteness of `S`
- add `IsCyclotomicExtension.isSeparable` that any cyclotomic extension is separable
- add `IsCyclotomicExtension.nonempty_algEquiv_adjoin_of_(isSepClosed|exists_isPrimitiveRoot)` that any cyclotomic extension is isomorphic to a field extension adjoin roots of unity
- add `(Algebra|IntermediateField).isCyclotomicExtension_adjoin_of_exists_isPrimitiveRoot` that an algebra or field extension adjoin roots of unity is cyclotomic
- generalize `IsCyclotomicExtension.isGalois` to any cyclotomic extension
- generalize `IsCyclotomicExtension.algEquiv` to any cyclotomic extension
- remove duplicated instance `CyclotomicField.algebra'` (was different in mathlib3, but becomes the same in mathlib4)
- generalize some results from `IsAlgClosed` to `IsSepClosed`
- add a missing instance `SeparableClosure.isSepClosed`
- add some more instances for `HasEnoughRootsOfUnity`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
Seems that import change counting is not working... The import of `Mathlib/NumberTheory/Cyclotomic/Basic.lean` is changed but the bot does not report it.

File: Mathlib/NumberTheory/Cyclotomic/Basic.lean [hunk 1]
```diff
@@ -276,15 +276,43 @@ theorem equiv {C : Type*} [CommRing C] [Algebra A C] [h : IsCyclotomicExtension
...
+  exact Algebra.IsIntegral.adjoin fun x ⟨n, hn, h1, h2⟩ ↦
+    ⟨X ^ n - 1, monic_X_pow_sub_C 1 h1, by simp [h2]⟩
+
+theorem _root_.Algebra.isCyclotomicExtension_adjoin_of_exists_isPrimitiveRoot
+    (h : ∀ n ∈ S, n ≠ 0 → ∃ r : B, IsPrimitiveRoot r n) :
+    IsCyclotomicExtension S A (adjoin A {b : B | ∃ n ∈ S, n ≠ 0 ∧ b ^ n = 1}) where
+  exists_isPrimitiveRoot {n} hn1 hn2 := by
+    obtain ⟨r, hr1, hr2⟩ := h n hn1 hn2
+    exact ⟨⟨r, subset_adjoin ⟨n, hn1, hn2, hr1⟩⟩, Subtype.val_injective hr1,
+      fun l hl ↦ hr2 l congr($hl.1)⟩
```
Comment (xroblot) [inline Mathlib/NumberTheory/Cyclotomic/Basic.lean:306]: What does `$` means here? I don't know that trick...

**Review by xroblot — COMMENTED** [review]
I am really not an expert in this part of the library but it looks good to me!

Thanks!

File: Mathlib/NumberTheory/Cyclotomic/Basic.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/NumberTheory/Cyclotomic/Basic.lean:306]: > What does `$` means here? I don't know that trick...

It is https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/TermCongr.html, basically if `hl` is the proof of `x = y`, then `congr($hl.1)` is the proof of `x.1 = y.1`.

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
